US07812028B2
Piperidine (0.48 ml, 4.82 mmol, 2.0 eq) was added portion-wise to a acetonitrile (2 ml) solution of 5-Bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid methyl ester (0.75 g, 2.41 mmol, 1.0 eq) at room temperature. The mixture was irradiated at 100° C. in a microwave with stirring for 30 minutes. HPLC-MS indicated complete consumption of starting material. The crude mixture was cooled to room temperature concentrated. The residue was re-dissolved in ethyl acetate (10 ml), washed with water (5 ml) and the organic phase dried over MgSO4. Following filtration and evaporation in vacuo, the residue was purified by chromatography on silica gel using a gradient of heptane to 10% ethyl acetate in heptane to afford 6-(4-fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid methyl ester. Yield=0.48 g (63%). 1H NMR (250 MHz, CDCl3): δ 1.42-1.53 (6H, m), 3.20-3.24 (4H, m), 3.88 (3H, s), 7.06 (2H, t, J=8.78 Hz), 7.74-7.80 (2H, m), 8.68 (1H, s).

reactant | Piperidine | 4.82 mmol, 0.48 ml, 2.0 eq | N1CCCCC1 | C5H11N
reactant | 5-Bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid methyl ester | 2.41 mmol, 0.75 g, 1.0 eq | COC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)F | C12H8BrFN2O2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 6-(4-fluoro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(N=C1)N1CCCCC1)C1=CC=C(C=C1)F | C17H18FN3O2
